US09357779B2
1-(2-Ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]propan-1-one (I-20)
1-(2-Ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-yn-1-one (130 mg) was dissolved in methanol and hydrogenated at 40° C. and an H2 pressure of 10 bar and in the presence of Pd/C (10%). This gave, after filtration and removal of the solvent under reduced pressure, 1-(2-ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]propan-1-one (40 mg).

reactant | 1-(2-Ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]prop-2-yn-1-one | 130 mg | C(C)OC1=C(C=CC=C1)C(C#CC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O)=O | C26H25F3N4O3S
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-(2-Ethoxyphenyl)-3-[2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]propan-1-one | C(C)OC1=C(C=CC=C1)C(CCC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O)=O | C26H29F3N4O3S
